US07498337B2
1-(pyridin-3-ylsulfonyl)-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde
To a solution (36 mL) of 5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde (240 mg) in tetrahydrofuran was added sodium hydride (60% in oil, 201 mg) at room temperature and the mixture was stirred for 30 min. 15-Crown-5 (1.11 g) was added dropwise and the mixture was stirred for 30 min. Pyridine-3-sulfonyl chloride hydrochloride (537 mg) was added, and the mixture was further stirred for 3 hr. The reaction mixture was diluted with saturated brine, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→2:3) and crystallized from diisopropyl ether to give the title compound as colorless crystals (yield 380 mg, about 100%).

reactant | 5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde | 36 mL, 240 mg | FC(C1=C(C=CC=C1)C1=CC(=CN1)C=O)(F)F | C12H8F3NO
reactant | sodium hydride | 201 mg | [H-].[Na+]
reactant | 15-Crown-5 | 1.11 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | Pyridine-3-sulfonyl chloride hydrochloride | 537 mg | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 1-(pyridin-3-ylsulfonyl)-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde | yield 380 mg, about 100% | N1=CC(=CC=C1)S(=O)(=O)N1C=C(C=C1C1=C(C=CC=C1)C(F)(F)F)C=O | C17H11F3N2O3S
